US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N-ethyl-N-(6-methyl-pyridin-2-ylmethyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid with ethyl-(6-methyl-pyridin-2-ylmethyl)-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=NC(=CC1)C)CC(=O)O | C18H22N2O4S
reactant | ethyl-(6-methyl-pyridin-2-ylmethyl)-amine | C(C)NCC1=NC(=CC=C1)C | C9H14N2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(6-methyl-pyridin-3-yl)-amino]-N-ethyl-N-(6-methyl-pyridin-2-ylmethyl)-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC(=CC=C1)C)CC)C=1C=NC(=CC1)C | C27H34N4O3S
